US07728020B2
Preparation of (E)-(R)-4-tert-Butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid
To a stirred solution of (E)-(R)-4-tert-butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid ethyl ester (56 mg, 0.12 mMol) in methanol (0.5 ml), THF (0.5 ml) and water (0.5 ml) is added lithium hydroxide (14 mg, 0.61 mMol). The mixture is stirred at RT for 3.5 hours. The reaction mixture is then poured onto a biphasic mixture of AcOEt and HCl (aqueous, 1 M). The aqueous phase is extracted twice with AcOEt. The combined organic layers are washed with a small amount of NaHCO3 (saturated aqueous solution), dried (Na2SO4) and concentrated under reduced pressure to give the title compound. The crude product is sufficiently pure to be used in the next stage without further purification.

reactant | (E)-(R)-4-tert-butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid ethyl ester | 0.12 mMol, 56 mg | C(C)OC(\C=C\[C@](CCC1=CC=C(C=C1)OCCCCCCC)(C)NC(=O)OC(C)(C)C)=O | C27H43NO5
reactant | lithium hydroxide | 0.61 mMol, 14 mg | [OH-].[Li+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 0.5 ml | CO | CH4O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | (E)-(R)-4-tert-Butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid | C(C)(C)(C)OC(=O)N[C@@](/C=C/C(=O)O)(CCC1=CC=C(C=C1)OCCCCCCC)C | C25H39NO5
